US08471005B2
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.125 g, 0.323 mmol), (4-Hydroxymethylphenyl)boronic acid (98.1 mg, 0.646 mmol), Triphenylphosphine (24 mg, 0.090 mmol) and Palladium Acetate (7.2 mg, 0.032 mmol) were placed in a vial and purged with vac/N2. N,N-Dimethylformamide (10.0 mL, 129 mmol), 1,4-Dioxane (3.0 mL, 38 mmol) and 2.00 M of Sodium carbonate in Water (1.50 mL, 3.00 mmol) were added and the mixture again purged (vac/N2) before being heated to 90° C. for 4 h. HPLC showed complete consumption of s.m. and LCMS showed m/z=415. Cool and partition between water:DCM (1:1, 60 mL). Sept., ext. aq. with 30 mL DCM. Wash comb. org. with brine (30 mL) and dry (sodium sulfate), filt. and conc. Chromatograph residue on ISCO (DCM load, 0-15% MeOH:DCM, 2×12 g silica) to afford (4-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanol (109 mg; Yield=81.5). LCMS (HPLC): 0.73 min, m/z=415 (M+H); 1H-NMR (DMSO-d6): 9.20 (s, 1H), 8.92 (s, 1H), 8.17 (d, 2H, J=8.2 Hz), 7.63 (d, 2H, J=9.0 Hz), 7.47 (d, 2H, J=8.2 Hz), 7.15 (d, 1H, J=4.8 Hz), 6.92 (m, 3H), 5.25 (t, 1H, J=5.8 Hz), 4.58 (d, 2H, J=5.8 Hz), 3.09 (m, 4H), 2.47 (m, 4H), 2.23 (s, 3H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.323 mmol, 0.125 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | (4-Hydroxymethylphenyl)boronic acid | 0.646 mmol, 98.1 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Triphenylphosphine | 0.090 mmol, 24 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N-Dimethylformamide | 129 mmol, 10.0 mL | CN(C=O)C | C3H7NO
reactant | 1,4-Dioxane | 38 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
reactant | Sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 3.00 mmol, 1.50 mL | O | H2O
catalyst | Palladium Acetate | 0.032 mmol, 7.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanol | 109 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)CO | C24H26N6O
